US06093718
A solution of 1-(4-bromophenylsulphonyl)-4-[1-(6-chloropyrimidin-4-yl)-piperazin-4-ylcarbonyl]piperazine (1.20 g) in 33% methylamine in ethanol (35 ml) was heated at 110° C. in a Carius tube for 16 hours. The mixture was evaporated to dryness and then dissolved in dichloromethane and washed with saturated aqueous ammonium chloride solution, dried (Na2SO4) and evaporated. The residue was recrystallised from methanol/ethyl acetate to give, as a solid 1-(4-bromophenylsulphonyl)4-[1-(6-methylaminopyrimidin-4-yl)-piperazin-4-ylcarbonyl]piperazine (0.65 g), mp 219-221° C. Found C, 45.80; H, 5.10 and N, 18.50%. C20H26BrN7O3S requires C, 45.80; H, 5.00 and N, 18.70% NMR (CDCl3): 2.85 (d, 3H), 3.00 (m, 4H), 3.30 (m, 4H), 3.40 (m, 4H), 3.60 (m, 4H). 4.75 (m, 1H), 5.40 (s, 1H), 7.60 (d, 2H), 7.70 (d, 2H) and 8.15 (s, 1H); m/z 524 (M+1).

reactant | 1-(4-bromophenylsulphonyl)-4-[1-(6-chloropyrimidin-4-yl)-piperazin-4-ylcarbonyl]piperazine | 1.20 g | BrC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)N1CCN(CC1)C1=NC=NC(=C1)Cl | C19H22BrClN6O3S
reactant | methylamine | CN | CH5N
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 1-(4-bromophenylsulphonyl)4-[1-(6-methylaminopyrimidin-4-yl)-piperazin-4-ylcarbonyl]piperazine | 0.65 g | BrC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)N1CCN(CC1)C1=NC=NC(=C1)NC | C20H26BrN7O3S
